US04599198
A. N-t-Butoxycarbonyl Statine benzyl ester
Boc-Statine, 8.83 g., was dissolved in dry dimethylformamide and treated at 25° C. for 4.5 hours with 4.43 g. potassium carbonate and 3.81 ml. benzyl bromide. The mixture was concentrated in vacuo, 500 ml. ethyl acetate was added and the suspension was washed with saturated aqueous lithium chloride (2×50 ml.), water (5×50 ml.), dried magnesium sulfate, filtered and concentrated to give 11.8 g. of a yellow syrup which was used without further purification.

reactant | Boc-Statine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)[C@@H](O)CC(O)=O | C13H25NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-t-Butoxycarbonyl Statine benzyl ester | C(C1=CC=CC=C1)OC(C[C@@H]([C@@H](NC(=O)OC(C)(C)C)CC(C)C)O)=O | C20H31NO5
